US08809376B2
Step 6: {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from [(S)-6-hydroxy-2,3-dihydro-benzofuran-3-yl]-acetic acid methyl ester and (S)-4-bromo-5-trifluoromethyl-indan-1-ol following a procedure analogous to that described in Step 2 of Intermediate 2. LC (method 5): tR=1.62 min; Mass spectrum (ESI+): m/z=471/473 (Br) [M+H]+.

reactant | [(S)-6-hydroxy-2,3-dihydro-benzofuran-3-yl]-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O)=O | C11H12O4
reactant | (S)-4-bromo-5-trifluoromethyl-indan-1-ol | BrC1=C2CC[C@@H](C2=CC=C1C(F)(F)F)O | C10H8BrF3O
product | {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)Br)=O | C21H18BrF3O4
